* SPICE3 file created from vco.ext - technology: sky130A

.subckt vco VCCD ENB p[4] Anlg_in VCCA VPWR GND
R0 Anlg_in vco_ring_osc_0/VGND sky130_fd_pr__res_generic_po w=0.48 l=2
R1 vco_ring_osc_0/VGND GND sky130_fd_pr__res_generic_po w=0.48 l=2
C0 p[4] vco_ring_osc_0/p[0] 2.297207f
C1 vco_ring_osc_0/p[1] VPWR 2.024526f
C2 vco_ring_osc_0/p[0] vco_ring_osc_0/pn[0] 2.817914f
C3 vco_ring_osc_0/p[1] VCCA 2.141853f
C4 p[4] vco_ring_osc_0/p[3] 2.296917f
C5 vco_ring_osc_0/pn[3] vco_ring_osc_0/p[3] 2.817914f
C6 vco_ring_osc_0/p[1] vco_ring_osc_0/pn[1] 2.817913f
C7 vco_ring_osc_0/pn[2] vco_ring_osc_0/pn[1] 2.590521f
C8 p[4] VPWR 2.030815f
C9 p[4] VCCA 2.050636f
C10 vco_ring_osc_0/pn[2] vco_ring_osc_0/pn[3] 2.563558f
C11 p[4] vco_ring_osc_0/pn[4] 3.589511f
C12 vco_ring_osc_0/p[2] vco_ring_osc_0/p[3] 2.297206f
C13 vco_ring_osc_0/pn[4] vco_ring_osc_0/pn[3] 2.563558f
C14 vco_ring_osc_0/pn[1] vco_ring_osc_0/pn[0] 2.563558f
C15 vco_ring_osc_0/pn[4] vco_ring_osc_0/pn[0] 2.563558f
C16 VPWR vco_ring_osc_0/p[0] 2.024411f
C17 vco_ring_osc_0/p[0] VCCA 2.141539f
C18 VPWR vco_ring_osc_0/p[3] 2.024411f
C19 VPWR vco_ring_osc_0/p[2] 2.066987f
C20 vco_ring_osc_0/p[1] vco_ring_osc_0/p[0] 2.296917f
C21 VCCA vco_ring_osc_0/p[3] 2.141539f
C22 vco_ring_osc_0/p[2] VCCA 3.160918f
C23 vco_ring_osc_0/p[1] vco_ring_osc_0/p[2] 2.296917f
C24 vco_ring_osc_0/pn[2] vco_ring_osc_0/p[2] 3.383091f
C25 VPWR VCCA 7.959993f
Xvco_ring_osc_0 vco_ring_osc_0/VGND VPWR vco_ring_osc_0/p[0] vco_ring_osc_0/p[1] vco_ring_osc_0/p[2]
+ vco_ring_osc_0/p[3] p[4] vco_ring_osc_0/pn[0] vco_ring_osc_0/pn[1] vco_ring_osc_0/pn[2]
+ vco_ring_osc_0/pn[3] vco_ring_osc_0/pn[4] VCCA GND vco_ring_osc
Xsky130_fd_sc_hd__einvp_1_0 VCCD ENB GND GND VCCD VCCD vco_ring_osc_0/pn[4] sky130_fd_sc_hd__einvp_1
C26 VCCA GND 0.116003p
C27 vco_ring_osc_0/p[3] GND 5.839946f
C28 vco_ring_osc_0/pn[3] GND 7.125296f
C29 vco_ring_osc_0/VGND GND 21.748072f
C30 p[4] GND 10.611836f
C31 vco_ring_osc_0/pn[4] GND 11.005135f
C32 vco_ring_osc_0/p[2] GND 7.276832f
C33 vco_ring_osc_0/pn[2] GND 8.351643f
C34 vco_ring_osc_0/p[1] GND 5.839947f
C35 VPWR GND 15.139269f
C36 vco_ring_osc_0/pn[1] GND 7.099289f
C37 vco_ring_osc_0/p[0] GND 5.886267f
C38 vco_ring_osc_0/pn[0] GND 7.25434f
.ends
